US07923450B2
b) 2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-5,6,7,8-tetrahydro-quinazolin-8-ol
The title compound was prepared from 2-[1-dimethylamino-methylidene]-6-hydroxy-cyclohexanone (188 mg, 1 mmol) and N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate (223 mg, 0.60 mmol) using in analogous manner the procedure described in example 45b). Obtained as a white solid (36 mg, 17%). MS ISP (m/e): 352.3 (100) [(M+H)+].

reactant | 2-[1-dimethylamino-methylidene]-6-hydroxy-cyclohexanone | 1 mmol, 188 mg | CN(C=C1C(C(CCC1)O)=O)C | C9H15NO2
reactant | N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate | 0.60 mmol, 223 mg | [N+](=O)(O)[O-].[N+](=O)(O)[O-].COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=N)N
product | 2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-5,6,7,8-tetrahydro-quinazolin-8-ol | COC=1C=C(C=CC1N1C=NC(=C1)C)NC1=NC=2C(CCCC2C=N1)O | C19H21N5O2
